US06239131B1
Preparation of 1-(furan-2-yl)carbonylmethyl-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(Furan-2-yl)carbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.00 g) was suspended in ethanol (10 ml), concentrated hydrochloric acid (2 ml) was added, and the mixture was stirred for one hour at 50° C. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in etheyl acetate, successively washed with saturated aqueous sodium bicarbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, diethyl ether was added to the residue for trituration, collected by filtration, to thereby obtain 373 mg of the titled compound.

reactant | 1-(Furan-2-yl)carbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.00 g | O1C(=CC=C1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C)=O | C26H33N3O6
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(furan-2-yl)carbonylmethyl-2-oxo-3-amino-5-pivaloyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 373 mg | O1C(=CC=C1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C(C)(C)C)=O)N)=O | C21H25N3O4
